US05387585
4.1. 77 g of 5-(chloromethyl)-1,2,4-triazolo[4,3-c]quinazoline are suspended in 2.0 l of acetone (or dioxan) and cooled to 5° C. 410 ml of 1N sodium hydroxide solution are added in such a manner that the temperature rises to about 13° C. The mixture is stirred at room temperature for 17 h. The reaction mixture is then made slightly acidic (pH 6) with 3N hydrochloric acid and concentrated in a vacuum. The crystalline precipitate is filtered off, washed and dried. There are obtained 65 g of crude 5H-[1,2,4]triazolo[1,5-d][1,4]benzodiazepin-6(7H)-one. The filtrate is saturated with sodium chloride and extracted 3 times with 0.51 of dichloromethane each time. The organic phases are evaporated in a vacuum. 12 g of crude 5H-[1,2,4]triazolo[1,5-d][1,4]benzodiazepin-6(7H)-one are obtained. Both crude crystallizates (77 g) are dissolved together in 5 l of dichloromethane and 250 ml of ethanol at reflux temperature. A small insoluble constituent is separated by filtration, the filtrate is cooled to room temperature and filtered through a column of 1500 g of silica gel. The column is rinsed with a mixture of 5.7 l of dichloromethane and 0.3 l of ethanol. After concentrating all eluates, there are obtained 62 g of yellow crystals. These are stirred at reflux temperature as a suspension in 600 ml of ethyl acetate and then cooled to 0° C. The crystals are filtered off, washed with diethyl ether and dried. There are obtained 51 g of 5H-[1,2,4]triazolo[1,5-d][1,4]benzodiazepin-6(7H)-one of m.p. 223°-223° C.

reactant | 5-(chloromethyl)-1,2,4-triazolo[4,3-c]quinazoline | 77 g | ClCC1=NC=2C=CC=CC2C=2N1C=NN2 | C10H7ClN4
reactant | dioxan | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 1N, 410 ml | [OH-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | acetone | 2.0 l | CC(=O)C | C3H6O
product | 5H-[1,2,4]triazolo[1,5-d][1,4]benzodiazepin-6(7H)-one | 65 g | N=1C=NN2CC(NC3=C(C21)C=CC=C3)=O | C10H8N4O
